US09370522B2
4-Methoxybenzaldehyde (2.72 g, 19.98 mmol, 1.00 equiv), methyl 3-aminobenzoate (3 g, 19.85 mmol, 1.00 equiv), and methanol (30 mL) were placed in a 50-mL round-bottom flask and allowed to react, with stirring, at room temperature overnight. The resulting solids were collected by filtration and dried in an oven under reduced pressure, yielding 3 g (56%) of (E)-methyl 3-(4-methoxybenzylideneamino)benzoate as a yellow solid.

reactant | 4-Methoxybenzaldehyde | 19.98 mmol, 2.72 g, 1.00 equiv | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | methyl 3-aminobenzoate | 19.85 mmol, 3 g, 1.00 equiv | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
solvent | methanol | 30 mL | CO | CH4O
product | (E)-methyl 3-(4-methoxybenzylideneamino)benzoate | 3 g, 56% | COC1=CC=C(\C=N\C=2C=C(C(=O)OC)C=CC2)C=C1 | C16H15NO3
